US06903085B1
(i) 1-(3,4-Dichlorobenzyl)-4-piperidinone
A solution of 3,4-dichlorobenzyl chloride (2.8 ml), 4-ketopiperidine hydrochloride monohydrate and triethylamine (8 ml) in dimethylformamide (30 ml) was stirred at room temperature for 20 h. The mixture was partitioned between water and ethyl acetate, the organic layer dried and evaporated under reduced pressure. Purification was by chromatography eluting with 40-50% ethyl acetate/isohexane. Yield 2.1 g.

reactant | 3,4-dichlorobenzyl chloride | 2.8 ml | ClC=1C=C(CCl)C=CC1Cl | C7H5Cl3
reactant | 4-ketopiperidine hydrochloride monohydrate | O.Cl.O=C1CCNCC1
reactant | triethylamine | 8 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-(3,4-Dichlorobenzyl)-4-piperidinone | ClC=1C=C(CN2CCC(CC2)=O)C=CC1Cl | C12H13Cl2NO
